US05385996
A slow stream of hydrogen chloride gas was passed for 4 h through a solution of 2-benzyloxy-3-bromopropionitrile (16.75 g) in methanol (2.38 g) and ether (66 ml) which was maintained at -10° C. The mixture was allowed to stand at 5° C. overnight, and then ice was added in small portions to the mixture at 0° C. After 20 min of stirring, the mixture was poured into water and the product was extracted with ether, washed with water and aqueous sodium bicarbonate, and dried (MgSO4). After the solvent was removed, the crude product was recrystallized from ether/CH2Cl2 to afford, after a first crop of crystals of 2-benzyloxy-3-bromopropanamide, the required intermediate, methyl 2-benzyloxy-3-bromopropanoate. This bromoester was treated with DBN/potassium carbonate as described above to yield methyl α-benzyloxyacrylate, mp 44.5°-45.5° C. (from hexane); 1H NMR δ 3.80 (3H, s), 4.63 (1H, d, J 3 Hz), 4.83 (2H, s), 5.37 (1H, d, J 3 Hz), 7.33 (5H, s); IR 1740 cm-1. Ketals of alkyl pyruvates, prepared according to the directions in The Journal of Organic Chemistry, 1967, 32,1615, also may be converted to α-alkoxyacrylates by an acidic catalyst, as described in Chemische Berichte, 1911, 44, 3514.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-benzyloxy-3-bromopropionitrile | 16.75 g | C(C1=CC=CC=C1)OC(C#N)CBr | C10H10BrNO
reactant | 2-benzyloxy-3-bromopropanamide | C(C1=CC=CC=C1)OC(C(=O)N)CBr | C10H12BrNO2
reactant | methyl 2-benzyloxy-3-bromopropanoate | C(C1=CC=CC=C1)OC(C(=O)OC)CBr | C11H13BrO3
reactant | DBN potassium carbonate | C1CC2=NCCCN2C1.C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2.38 g | CO | CH4O
solvent | ether | 66 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | methyl α-benzyloxyacrylate | C(C1=CC=CC=C1)OC(C(=O)OC)=C | C11H12O3
